US05872115
A solution of 2-phenoxycarbonylamino-N-(1-phenoxylcarbonylpiperidin-4-yl)benzamide (1.6 g, 3.5 mmol) and n-heptylamine (0.45 g, 3.9 mmol) in toluene (20 ml) was refluxed for 4 hours and then concentrated. The residue was purified by column chromatography on silica gel (50% ethyl acetate in petroleum ether) to give 2-(N'-n-heptylureido)-N-(1-phenoxy carbonylpiperidin-4-yl)benzamide: yield 95.0%: mp 142°-144° C.; 1H NMR (CDCl3)ppm: 0.88 (3H, t) 1.28-1.33 (7H, m), 19-1.62 (4H, m), 2.05-2.17 (2H, m), 3.04-3.19 (2H, m), 3.25 (2H, q), 4.10-4.15 (1H, m), 4.24-4.40 (2H, m), 4.59 (1H, t), 6.35 (1H, d), 6.92 (1H, t), 6.97-7.44 (8H, m), 8.40 (1H,d), 10.20 (1H, s).

reactant | 2-phenoxycarbonylamino-N-(1-phenoxylcarbonylpiperidin-4-yl)benzamide | 3.5 mmol, 1.6 g | O(C1=CC=CC=C1)C(=O)NC1=C(C(=O)NC2CCN(CC2)C(=O)OC2=CC=CC=C2)C=CC=C1 | C26H25N3O5
reactant | n-heptylamine | 3.9 mmol, 0.45 g | C(CCCCCC)N | C7H17N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(N'-n-heptylureido)-N-(1-phenoxy carbonylpiperidin-4-yl)benzamide | yield 95.0% | C(CCCCCC)NC(NC1=C(C(=O)NC2CCN(CC2)C(=O)OC2=CC=CC=C2)C=CC=C1)=O | C27H36N4O4
